US20010020114A1
1-[4-(1-Bromo-1-methyl-ethyl)-phenyl]-4-chloro-butan-1-one
Dissolve 4-chloro-1- (4-isopropyl-phenyl)-butan-1-one (5.00 g, 22.2 mmol) and N-bromosuccinimide (4.1 g, 23.0 mmol) in carbon tetrachloride (25 mL) and add AIBN radical initiator (300 mg). Stir and maintain under a nitrogen atmosphere at 80-90° C. or optionally irradiate with a sunlamp until a vigorous exotherm occurs at which point momentarily remove until reflux subsides and then reapply the heat. Reflux for 30 minutes and add another potion of N-bromosuccinimide (100 mg) while maintaining reflux and reflux an additional 15 minutes. Cool to room temperature and precipitate the succinimide from the solution by allowing to stand overnight. Filter and wash the succinimide (2.25 g) with carbon tetrachloride (20 mL). Combine the filtrates and evaporate the solvent in vacuo to give the title compound as a yellow%oil (6.80 g, 100%). 1H NMR (300MHz, CDCl3) δ7.935 (d, J=8.4 Hz, 2H), 7.70 (d, J=8.4 Hz, 2H), 3.66 (t, J=6.3 Hz, 2H), 3.16 (t, J=6.8 Hz, 2H), 2.21 (p, J=6.8 Hz, 2H), 2.19 (s, 6H); 13C NMR (75 MHz, CDCl3) 6198.1 (151.63), 135.8, 128.0, 126.0, 62.3, 44.5, 35.3, 35.1, 26.7; IR (neat) 2970, 2910, 1680, 1675, 1600, 1402, 1225, 1180 cm−1.

reactant | 4-chloro-1- (4-isopropyl-phenyl)-butan-1-one | 22.2 mmol, 5.00 g | ClCCCC(=O)C1=CC=C(C=C1)C(C)C | C13H17ClO
reactant | N-bromosuccinimide | 23.0 mmol, 4.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 300 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | carbon tetrachloride | 25 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-[4-(1-Bromo-1-methyl-ethyl)-phenyl]-4-chloro-butan-1-one | BrC(C)(C)C1=CC=C(C=C1)C(CCCCl)=O | C13H16BrClO
